US06429315B1
A mixture of 50.0 g (0.143 mol) of (R)-N-[1-[(3-chlorothien-2-yl )methyl]propyl]-4-methylbenzenesulfonamide lithium salt, prepared as described in PCT/US97/15729, in 50 g methanol is heated with stirring at 65° C. until dissolution of the solids is completed. The solution is cooled to 60° C. and 85 g water is added to the mixture dropwise. The mixture is stirred for 1.5 hours and then cooled to 20° C. The solids are isolated by filtration. Drying under vacuum with nitrogen bleed affords 46.6 g (95%) of the free base (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-methylbenzenesulfonamide.

reactant | (R)-N-[1-[(3-chlorothien-2-yl )methyl]propyl]-4-methylbenzenesulfonamide lithium salt | 0.143 mol, 50.0 g | [Li].ClC1=C(SC=C1)C[C@@H](CC)NS(=O)(=O)C1=CC=C(C=C1)C
reactant | water | 85 g | O | H2O
solvent | methanol | 50 g | CO | CH4O
product | (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-methylbenzenesulfonamide | 46.6 g, 95% | ClC1=C(SC=C1)C[C@@H](CC)NS(=O)(=O)C1=CC=C(C=C1)C | C15H18ClNO2S2
